US04473586
5-amino-6-benzyloxy-1,2,3,4-tetrahydro-1-naphthalenone (such as that disclosed in U.S. Pat. No. 4,035,512) is reacted with trimethylsilylcyanide followed by lithium aluminum hydride. The resultant 1-hydroxy-1- aminomethyl compound is dehydrated with HCl to give 1-aminomethyl-5-amino-6-benzyloxy-3,4-dihydronaphthalene HCl. This latter compound is reacted with trifluoro acetic anhydride to give 1-trifluoroacetylaminomethyl-5-amino-6-benzyloxy-3,4-dihydronaphthalene. This latter compound is formylated with formic acid and acetic anhydride and the trifluoroacetyl group is removed with Na2CO3 to yield 1-aminomethyl-5-formamido 6-benzyloxy-3,4-dihydronaphthalene HCl.

reactant | 5-amino-6-benzyloxy-1,2,3,4-tetrahydro-1-naphthalenone | NC1=C2CCCC(C2=CC=C1OCC1=CC=CC=C1)=O | C17H17NO2
reactant | trimethylsilylcyanide | C[Si](C)(C)C#N | C4H9NSi
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | Cl | ClH
product | 1-aminomethyl-5-amino-6-benzyloxy-3,4-dihydronaphthalene HCl | Cl.NCC1=CCCC2=C(C(=CC=C12)OCC1=CC=CC=C1)N | InChI=1S/C18H20N2O.ClH/c19-11-14-7-4-8-16-15(14)9-10-17(18(16)20)21-12-13-5-2-1-3-6-13;/h1-3,5-7,9-10H,4,8,11-12,19-20H2;1H
